US08349880B2
Step AAH (2): To a solution of 4-(2-phenyl-1,3-dioxolan-2-yl)butanoic acid (490 mg, 2.07 mmol) in anhydrous Et2O (10 mL) was added oxalyl dichloride (526 mg, 4.15 mmol). Anhydrous DMF (2 drops) was added and the resulting mixture stirred at rt for 1 h. The crude reaction was concentrated in vacuo. The residue was diluted with toluene (10 mL) and reconcentrated to afford 4-(2-phenyl-1,3-dioxolan-2-yl)butanoyl chloride (2.07 mmol).

reactant | 4-(2-phenyl-1,3-dioxolan-2-yl)butanoic acid | 2.07 mmol, 490 mg | C1(=CC=CC=C1)C1(OCCO1)CCCC(=O)O | C13H16O4
reactant | oxalyl dichloride | 4.15 mmol, 526 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-(2-phenyl-1,3-dioxolan-2-yl)butanoyl chloride | 2.07 mmol | C1(=CC=CC=C1)C1(OCCO1)CCCC(=O)Cl | C13H15ClO3
